US05994291
Synthesis of (E)-(R)-2-Propyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-ol
In a 100 ml stainless steel autoclave were charged 6.60 g (0.03 mol) of (E)-(R)-2-propyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-al synthesized from (1S)-α-pinene having an optical purity of 97% e.e. in a conventional manner, 28.7 mg (0.03 mmol) of RuCl2 (PPh3)3, 2.4 ml of a 0.1M 1,2-diaminoethane (0.24 mmol) solution in isopropyl alcohol, and 15 ml of a 0.1M potassium hydroxide (1.5 mmol) solution in isopropyl alcohol in a nitrogen atmosphere, and the mixture was stirred at room temperature for 3 hours under a hydrogen pressure of 50 atm.

reactant | (E)-(R)-2-propyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-al | 0.03 mol, 6.60 g | C(CC)/C(/C=O)=C\C[C@@H]1C(C(=CC1)C)(C)C | C15H24O
reactant | 1,2-diaminoethane | 0.24 mmol, 0.1M | NCCN | C2H8N2
reactant | potassium hydroxide | 1.5 mmol, 0.1M | [OH-].[K+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | (E)-(R)-2-Propyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-ol | C(CC)/C(/CO)=C\C[C@@H]1C(C(=CC1)C)(C)C | C15H26O
